US04441496
97/3 p-Dioxanone/3-Methyl-2,5-Morpholinedione Copolymer
p-Dioxanone (12.8 g, 0.125 moles), 3-methyl-2,5- morpholinedione (0.5 g, 0.00388 moles), 1-dodecanol (0.0369 g, 0.000198 moles), and a catalytic amount of stannous octoate (0.025 ml of a 0.33 M toluene solution, 0.0000083 moles) are heated and magnetically mixed in a flame and vacuum dried, sealed glass ampoule according to the following temperature/time scheme:

reactant | p-Dioxanone | 0.125 moles, 12.8 g | O1C(COCC1)=O | C4H6O3
reactant | 3-methyl-2,5- morpholinedione | 0.00388 moles, 0.5 g | CC1NC(COC1=O)=O | C5H7NO3
reactant | 1-dodecanol | 0.000198 moles, 0.0369 g | C(CCCCCCCCCCC)O | C12H26O
reactant | stannous octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
solvent | toluene | 0.33 M | C1(=CC=CC=C1)C | C7H8
product | p-Dioxanone 3-Methyl-2,5-Morpholinedione | O1C(COCC1)=O.CC1NC(COC1=O)=O | InChI=1S/C5H7NO3.C4H6O3/c1-3-5(8)9-2-4(7)6-3;5-4-3-6-1-2-7-4/h3H,2H2,1H3,(H,6,7);1-3H2
